US05175301
O-Methyl-N-(3-pyridylmethyl)hydroxylamine
In 200 ml of acetonitrile was suspended 6.6 g (0.04 mole) of 3-pyridylmethyl chloride hydrochloride, followed by addition of 10 g (0.12 mole) of O-methylhydroxylamine hydrochloride and 16.2 g (0.16 mole) of triethylamine. The mixture was stirred at 50° C. for 15 hours. The insoluble matter was filtered off and the filtrate was concentrated. The residue was subjected to silica gel column chromatography, using EtOH--CHCl3 (1:10) as an eluent. The procedure gave 1.0 g of the title compound as a yellow oil.

reactant | 3-pyridylmethyl chloride hydrochloride | 0.04 mole, 6.6 g | Cl.N1=CC(=CC=C1)CCl
reactant | O-methylhydroxylamine hydrochloride | 0.12 mole, 10 g | Cl.CON
reactant | triethylamine | 0.16 mole, 16.2 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | O-Methyl-N-(3-pyridylmethyl)hydroxylamine | 1.0 g | CONCC=1C=NC=CC1 | C7H10N2O
